US06372153B1
A mixture of 5.0 g (13 mmol) of 4-(trans-4-pentylcyclohexyl) methoxyiodo benzene, 4.1 g (34 mmol) of dihydroxy (3,5-difluoro-4-trifluoromethoxyphenyl) borane, 3.0 g of 5% palladium on activated charcoal and 7.2 g (136 mmol) of sodium carbonate was refluxed in toluene/alcohol/water (1/1/1 v/v, 75 ml) under a nitrogen atmosphere for 3 days. After cooling, the reaction solution was added with water (100 ml) and extracted twice with toluene (100 ml). An organic layer was dried over anhydrous magnesium sulfate, filtered and the solvent therein was distilled off under a reduced pressure. The residue thus obtained was purified by column chromatography (silica gel/heptane:toluene=5:1) and recrystallization (heptane-ethanol) to obtain colorless crystals of 2,6-difluoro-4-(4-(trans-4-pentylcyclohexyl) methoxyphenyl) trifluoromethoxybenzene.

reactant | 4-(trans-4-pentylcyclohexyl) methoxyiodo benzene | 13 mmol, 5.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=C1)I | C18H27IO
reactant | dihydroxy (3,5-difluoro-4-trifluoromethoxyphenyl) borane | 34 mmol, 4.1 g | OB(C1=CC(=C(C(=C1)F)OC(F)(F)F)F)O | C7H4BF5O3
reactant | sodium carbonate | 136 mmol, 7.2 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium on activated charcoal | 3.0 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | 2,6-difluoro-4-(4-(trans-4-pentylcyclohexyl) methoxyphenyl) trifluoromethoxybenzene | FC1=C(C(=CC(=C1)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)CCCCC)F)OC(F)(F)F | C25H29F5O2
